.subckt XNOR inA inB out vdd gnd
    .include XOR.sub
    .include NOT.sub
    
    X1 inA inB Xor_out vdd gnd XOR
    X2 Xor_out out vdd gnd
.ends XNOR